US07144871B2
To a solution of (4S,2R,3R,5R)-2-hydroxymethyl-5-[6-(tetrahydrofuran-3-ylamino)-purin-9-yl]-tetrahydrofuran-3,4-diol acetonide (500 mg, 1.33 mmol), 2-fluorophenol (179.4 mg, 1.6 mmol), and triphenylphospine (418.3 mg, 1.6 mmol) in anhydrous tetrahydrofuran (20 mL), DIAD (diisopropylazodicarboxylate, 320 μL, 1.6 mmol) was added and heated to reflux for 16 hours. The reaction mixture was cooled to room temperature and the solvent evaporated. The residue was purified by column chromatography (eluting with ethyl acetate: hexane 50:50) to give (4S,2R,3R,5R)-2-(2-fluorophenoxy)methyl-5-[6-(tetrahydrofuran-3-ylamino)-purin-9-yl]-tetrahydrofuran-3,4-diol acetonide as a pure white solid.

reactant | (4S,2R,3R,5R)-2-hydroxymethyl-5-[6-(tetrahydrofuran-3-ylamino)-purin-9-yl]-tetrahydrofuran-3,4-diol acetonide | 1.33 mmol, 500 mg | [CH2-]C(=O)C.OC[C@H]1O[C@H]([C@H]([C@H]1O)O)N1C2=NC=NC(=C2N=C1)NC1COCC1
reactant | 2-fluorophenol | 1.6 mmol, 179.4 mg | FC1=C(C=CC=C1)O | C6H5FO
reactant | triphenylphospine | 1.6 mmol, 418.3 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 1.6 mmol, 320 μL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (4S,2R,3R,5R)-2-(2-fluorophenoxy)methyl-5-[6-(tetrahydrofuran-3-ylamino)-purin-9-yl]-tetrahydrofuran-3,4-diol acetonide | [CH2-]C(=O)C.FC1=C(OC[C@H]2O[C@H]([C@H]([C@H]2O)O)N2C3=NC=NC(=C3N=C2)NC2COCC2)C=CC=C1 | InChI=1S/C20H22FN5O5.C3H5O/c21-12-3-1-2-4-13(12)30-8-14-16(27)17(28)20(31-14)26-10-24-15-18(22-9-23-19(15)26)25-11-5-6-29-7-11;1-3(2)4/h1-4,9-11,14,16-17,20,27-28H,5-8H2,(H,22,23,25);1H2,2H3/q;-1/t11?,14-,16+,17+,20-;/m1./s1
